US05066644
N-(3-Pyroglutamyl-thiazolidine-4-carbonyl)morpholine (I,
4.84 g (0.02 moles) of 3-pyroglutamyl-thiazolidine-4-carboxylic acid are suspended in 20 ml of DMF and treated with 3.25 g (0.02 mole) of carbonyldiimidazole. After no more gas is developed, 1.72 g (0.02 moles) of morpholine dissolved in 10 ml of DMF is added thereto and shaken for 1 hour. After diluting with 2 volumes of ethyl ether, the solid is filtered and water recrystallized yielding 4.35 g (70%) of product. m.p. 187°-188° C.

reactant | 3-pyroglutamyl-thiazolidine-4-carboxylic acid | 0.02 moles, 4.84 g | N1[C@@H](CCC1=O)C(=O)N1CSCC1C(=O)O | C9H12N2O4S
reactant | carbonyldiimidazole | 0.02 mole, 3.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 0.02 moles, 1.72 g | N1CCOCC1 | C4H9NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-(3-Pyroglutamyl-thiazolidine-4-carbonyl)morpholine | 4.35 g, 70% | N1[C@@H](CCC1=O)C(=O)N1CSCC1C(=O)N1CCOCC1 | C13H19N3O4S
